US08076359B2
Step 1: 1-tert-Butyl 3-ethyl 4-oxopiperidine-1,3-dicarboxylate
To a solution of ethyl 4-oxopiperidine-3-carboxylate hydrogen chloride (1 eq.) in tert-butyl methyl ether (0.85 M) at 0° C. was added di-tert-butyl dicarbonate (1.5 eq.) and 1N aqueous NaOH (1.5 eq.). The reaction was warmed to rt and stirred for 18 h. The reaction was neutralized with 10% aqueous HCl and extracted with ether. The combined organic extracts were washed with brine, dried over MgSO4, and concentrated in vacuo to afford the title compound as a solid.

reactant | ethyl 4-oxopiperidine-3-carboxylate hydrogen chloride | 1 eq. | Cl.O=C1C(CNCC1)C(=O)OCC
reactant | di-tert-butyl dicarbonate | 1.5 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 1N, 1.5 eq. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | tert-butyl methyl ether | 0.85 M | COC(C)(C)C | C5H12O
product | 1-tert-Butyl 3-ethyl 4-oxopiperidine-1,3-dicarboxylate | O=C1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C13H21NO5
